US04034098
4-(p-Methoxybenzenesulphonamido)-1-(4-phenyl-4-oxobutyl)piperidine
Using an analogous procedure to Example 2 4-amino-1-(4-phenyl-4-oxobutyl)piperidine dihydrochloride may be reacted with p-methoxybenzenesulphonyl chloride to give the title compound.

reactant | 4-amino-1-(4-phenyl-4-oxobutyl)piperidine dihydrochloride | Cl.Cl.NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1
reactant | p-methoxybenzenesulphonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 4-(p-Methoxybenzenesulphonamido)-1-(4-phenyl-4-oxobutyl)piperidine | COC1=CC=C(C=C1)S(=O)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C22H28N2O4S
